US07514571B2
Using 4-amino-1-fluorobicyclo[2,2,2]octane (50.0 mg) and (2S,4S)-1-(2-bromoacetyl)-4-fluoropyrrolidine-2-carbonitrile (82.1 mg), the same procedure was followed as in Example 10 to obtain (2S,4S)-1-[[N-(4-fluorobicyclo[2,2,2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (93.1 mg).

reactant | 4-amino-1-fluorobicyclo[2,2,2]octane | 50.0 mg | NC12CCC(CC1)(CC2)F | C8H14FN
reactant | (2S,4S)-1-(2-bromoacetyl)-4-fluoropyrrolidine-2-carbonitrile | 82.1 mg | BrCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C7H8BrFN2O
product | (2S,4S)-1-[[N-(4-fluorobicyclo[2,2,2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 93.1 mg | FC12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C15H21F2N3O
